Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone / atorvastatin
 
Attending: ___.
 
Chief Complaint:
Left foot pain
 
Major Surgical or Invasive Procedure:
L SFA stent (___)
PICC (___)

 
History of Present Illness:
___ with h/o type 1 diabetes, gastroparesis, peripheral 
neuropathy, CAD, R BKA, PAD, hypothyroidism, depression p/w 
several weeks of left toe pain now with redness. Per ___ report 
the toe was painful to the touch and her FSG had also been 
running in the 300s, higher than her usual 200's. The patient 
had a "great day" yesterday and had no c/o fevers. In the ED she 
reported having ___ weeks pain in her L great toe which is now 
___ that comes and goes. She reports no radiation of this pain, 
and attempted nothing to help, but finds it worsened by walking 
or palpation. She states she has no other complaints, and would 
like to go home as soon as possible.

Of note the patient had been admitted in ___ for c/o nausea 
vomiting found to have hyponatremia, ?gastroparesis flare, and 
sepsis ___ UTI. She has had admissions to the ICU for urosepsis 
in the past. She had bilateral lung opacities thought d/t 
chronic aspiration, there were no signs of GI infection on CT. 
She was treated with vanc/zosyn and this was transitioned to 
ceftriaxone. She was noted to have had an episode of 
hypertensive urgency in ___ that required treatment 
with IV labetalol gtt.  

In the ED, initial vitals were: 98.8 F, BP 140/60s, HR ___, RR 
19, O2 sat 98% RA  

Exam:
GEN: NAD, lying in bed
HEENT: AT/NC, EOMI
EXT: L great toe erythematous, warm with lesion over DIP joint, 
very TTP

Labs notable for: WBC 6.0, Hgb 9.8, plts 282, Na 130, K 3.2, Cr 
1.8, serum glucose 365, Ca ___, lactate 1.2 

Imaging notable for: 
Loss of the cortical margin with focal erosion at the distal 
aspect of the distal phalanx of the left great toe medially 
worrisome for osteomyelitis.

Buckling of the cortex of the distal left fourth metatarsal 
worrisome for fracture.
 
On the floor, the patient reports she has had pain in her left 
foot for the past couple of days. She cannot remember if she 
bumped her foot against anything. She didn't trip or fall as far 
as she can remember. She denies fevers, fatigue, headache, chest 
pain, SOB, abdominal pain, diarrhea, dysuria, or changes in her 
right leg. She reports that she needed a BKA because "there was 
an ulcer that wouldn't heal." She reports that she hasn't had 
anything to eat or drink since being in the ED earlier this 
morning. 
 
 
Past Medical History:
- H/o DVT 
- MI ___, no stents 
- DM type I. Followed by ___. 
- Peripheral neuropathy 
- gastroparesis 
- HTN 
- Hyperlipidemia 
- Hypothyroidism 
- PVD/PAD 
- Autonomic dysfunction, orthostatic hypotension 
- Barretts Esophagus on EGD ___ 
- Depression 
- S/p right BKA 
- Hiatal hernia 
- sciatica 
- S/p laminectomy 
- S/p hysterectomy
- CKD 
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___.
Father - coronary artery disease with MI in her ___, died at 
age ___.  
 
Physical Exam:
ON ADMISSION
============
VS:  97.8 ___ RA
Gen: alert, oriented x3, wearing false teeth  
HEENT: PERRL, EOMI, dry mucus membranes 
CV: RRR without murmurs appreciated 
Pulm: CTAB 
Abd: +BS, NTN D 
GU: n/a 
Ext: R BKA with no rash, LLE significant for two small ulcers on 
the great toe and second toe, superficial with scabbing around 
the border. 1+ pulse, palpable. Tender to palpation of first and 
second DTP and MTPs, at the ankle, although there is no effusion 
and preserved ROM. No knee pain. 
Skin: as noted above, no other rashes  
Neuro: sensation grossly intact, moving all extremities

ON DISCHARGE
============
Vitals: Afebrile, BP 110s-150s/50s-70s, HR ___, RR 18, 100% 
ra.
GEN: AOx3, NAD
HEENT: AT/NC, EOMI, PERRL, MMM
CV: RRR, no m/g/r 
PULM: anterior breath sounds CTAB
ABD: +BS, soft, non tender 
EXT: s/p right BKA, left foot s/p great toe nail avulsion with 
dressing in place, appears c/d/i, 1+ ___ pulse palpable of 
LLE, sensation preserved in left lower extremity and right lower 
extremity above site of BKA, able to wiggle toes
Neuro: AOx3, interactive, responding to questions appropriately 
and following commands
 
Pertinent Results:
ADMISSION LABS
=============
___ 04:30PM BLOOD WBC-6.0 RBC-3.43* Hgb-9.8* Hct-29.5* 
MCV-86 MCH-28.6 MCHC-33.2 RDW-14.9 RDWSD-46.6* Plt ___
___ 04:30PM BLOOD Neuts-58.6 ___ Monos-10.9 Eos-1.3 
Baso-0.5 Im ___ AbsNeut-3.49# AbsLymp-1.69 AbsMono-0.65 
AbsEos-0.08 AbsBaso-0.03
___ 04:30PM BLOOD Glucose-365* UreaN-25* Creat-1.8* Na-130* 
K-3.2* Cl-91* HCO3-22 AnGap-20
___ 04:30PM BLOOD Calcium-10.9* Phos-2.9 Mg-2.1
___ 11:56PM BLOOD ___ pO2-198* pCO2-23* pH-7.55* 
calTCO2-21 Base XS-0 Comment-GREEN TOP
___ 04:45PM BLOOD Lactate-1.2

PERTINENT LABS
=============
___ 06:26AM BLOOD VitB12-1036*
___ 06:26AM BLOOD Osmolal-286
___ 06:26AM BLOOD PTH-18
___ 06:26AM BLOOD 25VitD-33
___ 04:49PM BLOOD Vanco-17.6
___ 06:41PM BLOOD SED RATE- 80
___ 06:09AM BLOOD TSH-4.3*
___ 05:38AM BLOOD Cortsol-14.4
___ 04:30PM BLOOD CRP-19.3*
___ 05:00AM BLOOD CRP-4.5
___ 05:38AM BLOOD CRP-20.0*

IMAGING
=======
FOOT PLAIN FILM ___: Loss of the cortical margin with focal 
erosion at the distal aspect of the distal phalanx of the left 
great toe medially worrisome for osteomyelitis. Buckling of the 
cortex of the distal left fourth metatarsal worrisome for 
fracture.

ABI ___: 
1.  Status post right below-knee amputation.
2.  Findings on the left side suggesting significant aortoiliac 
inflow disease
with additional runoff disease in the SFA and tibial vessels.

MRI FOOT W/O CONTRAST ___:
1. Apparent small soft tissue ulceration of the tip of the great 
toe extending
to the underlying cortex of the distal phalanx.   Bone marrow 
edema in the
distal phalanx and low level T1 hypointensity is suspicious for 
osteomyelitis.
2. Fractures of the fourth and fifth metatarsal necks.
3. Diffuse muscle atrophy.

MICROBIOLOGY
============
___:  Blood Culture, Routine (Final ___:    NO GROWTH. 


___: MRSA SCREEN (Final ___:    No MRSA isolated. 

URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN AND/OR GENITAL CONTAMINATION. 

DISCHARGE LABS
==============
___ 06:23AM BLOOD WBC-6.5 RBC-2.65* Hgb-8.1* Hct-24.8* 
MCV-94 MCH-30.6 MCHC-32.7 RDW-17.1* RDWSD-58.6* Plt ___
___ 06:23AM BLOOD Glucose-138* UreaN-20 Creat-1.6* Na-130* 
K-4.5 Cl-95* HCO3-28 AnGap-12
___ 06:23AM BLOOD Calcium-8.4 Phos-4.0 Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a h/o DMT1, 
gastroparesis, peripheral neuropathy, CAD, R BKA, PAD, 
hypothyroidism, and depression who presents with hyperglycemia 
and several weeks of left toe pain consistent with cellulitis 
with radiographic findings (both plain film and MRI) concerning 
for osteomyelitis. She was started on broad spectrum IV 
antibiotics. Podiatry was consulted but deferred any surgical 
intervention. The possibility of ___ guided bone biopsy to obtain 
microbiology data was discussed, but as she had already been on 
antibiotics for nearly two weeks, it was felt that this would 
likely be low yield. She will complete a 6 week course of 
Vancomycin and Ceftriaxone (end date ___. Her hospital 
course was also complicated by hypertension as high as 210 
systolic, which was exacerbated by not being able to tolerate PO 
medications due to nausea. Her hypertension was managed with IV 
Hydralazine when necessary and her BP meds were changed as 
stated in transitional issues below. Her nausea and vomiting 
were managed with fluids, Lorazepam, Metaclopromide, and 
Ondansetron (thought to be from her gastroparesis). She also 
developed urinary retention that is thought to be due to 
complications for her diabetes and immobility and she required 
intermittent straight caths and will go home with a foley. She 
has a hyponatremia that was likely a mixed ___ that 
remained stable at ~130s upon discharge. She had poor PO during 
her hospital stay and ___ was consulted for her diabetes and 
her insulin was adjusted (see below). ___ recommended rehab, but 
she has no rehab days left on her insurance.

#L toe cellulitis/osteomyelitis
#Peripheral vascular disease
#L ___ metatarsal fractures: 
Diagnosed via Xray/MRI. s/p angiogram with stent placement ___ 
to improve distal flow. On IV Vancomycin/Ceftriaxone planned 6 
week course. ID followed. Pain controlled with standing Tylenol, 
with PRN tramadol

#Diabetes mellitus, type 1
#Gastroparesis:
N/V/gastroparesis flare during her hospital stay. Her 
gastroparesis was managed with IV Ativan, IV Reglan, IV Zofran, 
and IV fluids. Also had persistent labile blood sugars, 
intermittent asymptomatic hypoglycemia. ___ following with 
daily insulin regimen titration. ___ was consulted and 
titrated her insulin down to lantus 4 U qam, lantus 8 U qpm, and 
Humalog 2+1 for every 50 mg/dL starting at 150 at meals and 1+1 
for every 50 mg/dL starting at 200 at bedtime 

#Hypertensive urgency:  
She has persistently high BP in the morning (SBP ~170s) and had 
a SBP of 210 at one point (in setting of nausea/vomiting from 
gastroparesis flare). Her gastroparesis was managed and she was 
started on lisinopril 20 mg qd. Her home clonidine was decreased 
to 0.2mg BID and she was continued on her home amlodipine 10 mg 
PO/NG DAILY and hydralazine 100 mg PO/NG Q8H. Her isosorbide 
dinitrate was switched to imdur 90 mg qd. Her Lasix and 
spironolactone were held in the setting of poor PO intake. 

#Chronic kidney disease: 
#Urinary retention:
Cr near baseline, 1.7-1.8 in setting of CKD. Likely underlying 
urge incontinence with retention from diabetic induced urinary 
neuropathy, requiring intermittent straight cath for retention. 
FeNA 1.3% on ___. Concern for chronic diabetic nephropathy as 
well. She will go home with a foley. 

#Hyponatremia: 
Likely mixed ___ picture. Downtrended to ~130s and 
remained stable. FeNA 1.3% ___.

#Asymptomatic bacteruria: 
Patient had large leukocytes on U/A and >182 on microscopy but 
not symptomatic (no dysuria, increased frequency). Normally 
would not treat, but she was already on broad-spectrum abx for 
cellulitis/presumed osteomyelitis. 

#Respiratory alkalosis: 
VBG on admission notable for pH 7.55 and pCO2 of 23 with unclear 
etiology given lack of signs of hypoxia leading to 
hyperventilation (no tachypnea, no clinical signs of pneumonia, 
pulmonary edema, or PE). Could be attributed to L toe pain. 
Repeat VBG showing pH of 7.41 and pCO2 normalized. 

#Hypercalcemia: 
Unclear etiology, resolved on HD2. She denies symptoms such as 
abdominal pain, constipation, and does not appear to have 
altered mental status. PTH, Vitamin D were checked and were 
normal. Her calcium subsequently normalized.

#Anemia: chronic, stable, likely due to chronic disease 
#Chronic Pain: Continued home methadone 5 mg TID, Tylenol, 
lidocaine. 
#CAD: Continued home ASA 81, Plavix.  
#HLD: Continued home rosuvastatin 10mg qHS  
#Depression: Continued home citalopram 20mg daily.  
#Hypothyroidism: Continued levothyroxine 88 mcg PO QD.  
#GERD:  Continued home Pantoprazole 40mg daily  
#COPD: Continued albuterol inhaler 2 PUFF IH Q6H:PRN wheeze, 
continued home advair and spiriva.
#Glaucoma: Continued brimonidine-timolol 0.2-0.5 % ophthalmic 
BID, and artificial tears.
#Constipation: Senna, Colace, milk of magnesia, miralax.

TRANSITIONAL ISSUES:
====================
-Follow-up arranged for: PCP, ___, vascular surgery, ___, 
podiatry, cardiology, and uro-gynecology
-Needs follow-up: Nephrology for CKD
-New medications: CTX 2 g qd, vancomycin 500 mg qd, imdur 90 mg 
qd, lisinopril 20 mg qd
-Changed medications: Decreased clonidine from 0.3 mg BID to 0.2 
mg BID
-Held medications: Isosorbide dinitrite 30 mg TID (switched to 
imdur), laxix, spironolactone (please restart after her PO 
intake improves).
-Antibiotic course: She will complete a 6 week course of CTX and 
vancomycin on ___ and follow-up with ID as an outpatient in 
___ clinic.
-- OPAT LABs
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
Patient will need weekly CBC with differential, BUN, Cr, 
Vancomycin trough, AST, ALT,
TB, ALK PHOS, ESR, CRP 
All questions regarding outpatient parenteral antibiotics after 
discharge should be directed to the ___ R.N.s at 
___ or to the on-call ID fellow when the clinic is 
closed. 

-Labs: Her sodium was 130, hgb 8.1, and cr 1.6 and stable upon 
discharge. Please recheck these labs at her next PCP appointment 
to ensure stability and work-up anemia (colonoscopy, etc). She 
had a mildly elevated TSH (4.3) please recheck in ___ months.

-She has gastroparesis and ___ esophagus with last EGD in 
___. She is due for repeat.
-BP monitoring: Her BP medications were switched as stated 
above. Please monitor her BP and consider restarting 
spironolactone.
-Diabetes: She had poor PO intake throughout her hospital stay 
and her insulin was adjusted to lantus 4 U qam, lantus 8 U qpm, 
and Humalog 2+1 for every 50 mg/dL starting at 150 at meals and 
1+1 for every 50 mg/dL starting at 200 at bedtime
-Urinary retention: She has urinary retention thought to be from 
her diabetes (unsure of chronicity) and requires a chronic 
indwelling foley. Uro-gynecology will see her as an outpatient 
regarding this.
-Code status: Full code
-Contact: Husband ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
3. amLODIPine 10 mg PO DAILY 
4. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
5. Ascorbic Acid ___ mg PO BID 
6. Aspirin 81 mg PO DAILY 
7. Citalopram 20 mg PO DAILY 
8. CloNIDine 0.3 mg PO BID 
9. Clopidogrel 75 mg PO DAILY 
10. Cyanocobalamin 1000 mcg PO DAILY 
11. Ferrous GLUCONATE 324 mg PO DAILY 
12. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
13. Furosemide 20 mg PO DAILY 
14. HydrALAZINE 100 mg PO Q8H 
15. Isosorbide Dinitrate 30 mg PO TID 
16. Levothyroxine Sodium 88 mcg PO DAILY 
17. Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash 
18. Multivitamins 1 TAB PO DAILY 
19. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
20. Pantoprazole 40 mg PO Q24H 
21. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
22. Senna 8.6 mg PO BID:PRN constipation 
23. Spironolactone 25 mg PO DAILY 
24. Tiotropium Bromide 1 CAP IH DAILY 
25. Methadone 5 mg PO TID 
26. Calcitriol 0.25 mcg PO DAILY 
27. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID 
28. Docusate Sodium 100 mg PO BID 
29. Lidocaine 5% Ointment 1 Appl TP BID 
30. Metoclopramide 5 mg PO QIDACHS 
31. Rosuvastatin Calcium 10 mg PO QPM 
32. travoprost 0.004 % ophthalmic QPM 
33. Calcium Carbonate 500 mg PO DAILY 
34. Lantus Solostar (insulin glargine) 100 unit/mL (3 mL) 
subcutaneous 15 units in the morning 
35. NovoLOG Flexpen (insulin aspart) 100 unit/mL subcutaneous 
per sliding scale 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g IV once a 
day Disp #*30 Intravenous Bag Refills:*0 
2.  Glargine 4 Units Breakfast
Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
3.  Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 3 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*0 
4.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Vancomycin 500 mg IV Q 24H 
RX *vancomycin 500 mg 1 vial IV daily Disp #*25 Vial Refills:*0 
6.  CloNIDine 0.2 mg PO BID 
RX *clonidine HCl 0.2 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
7.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
8.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
9.  amLODIPine 10 mg PO DAILY  
10.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
11.  Ascorbic Acid ___ mg PO BID  
12.  Aspirin 81 mg PO DAILY  
13.  Calcitriol 0.25 mcg PO DAILY  
14.  Calcium Carbonate 500 mg PO DAILY  
15.  Citalopram 20 mg PO DAILY  
16.  Clopidogrel 75 mg PO DAILY  
17.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic BID  
18.  Cyanocobalamin 1000 mcg PO DAILY  
19.  Docusate Sodium 100 mg PO BID  
20.  Ferrous GLUCONATE 324 mg PO DAILY  
21.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
22.  HydrALAZINE 100 mg PO Q8H  
23.  Levothyroxine Sodium 88 mcg PO DAILY  
24.  Lidocaine 5% Ointment 1 Appl TP BID  
25.  Methadone 5 mg PO TID  
26.  Metoclopramide 5 mg PO QIDACHS  
27.  Miconazole Powder 2% 1 Appl TP TID:PRN axillary rash  
28.  Multivitamins 1 TAB PO DAILY  
29.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
30.  Pantoprazole 40 mg PO Q24H  
31.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
32.  Rosuvastatin Calcium 10 mg PO QPM  
33.  Senna 8.6 mg PO BID:PRN constipation  
34.  Tiotropium Bromide 1 CAP IH DAILY  
35.  travoprost 0.004 % ophthalmic QPM  
36. HELD- Furosemide 20 mg PO DAILY  This medication was held. 
Do not restart Furosemide until directed by ___ cardiologist
37. HELD- Spironolactone 25 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until directed by your PCP
38.Outpatient Lab Work
To be checked weekly: CBC with differential, Vancomycin trough, 
BUN, Cr, AST, ALT, TBili, ALK PHOS, CRP
Dx: Osteomyelitis M___.___
Fax results to ___ CLINIC - FAX: ___

39.___ Lift
ICD 10: G62.81, Z89.512
Please provide patient with ___ lift

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
PRIMARY
========
Cellulitis
Osteomyelitis
Gastroparesis flare
Hypertensive urgency
Diabetes mellitus, insulin dependent
Peripheral vascular disease
Metatarsal fracture

Secondary:
==========
Hypercalcemia
Anemia
Gastroesophageal reflux disease
Coronary artery disease
Hyperlipidemia
Depression
Hypothyroidism
Chronic obstructive pulmonary disease
Glaucoma
Constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___. 

You were in the hospital because you had an infection in your 
toe. We gave you antibiotics to treat this infection. You had a 
procedure to put a stent in an artery in your leg. Finally, you 
also had problems with nausea and vomiting, and your blood 
pressures were very high. We made some changes to your 
medications for these problems.

When you leave the hospital, it will be very important for you 
to go to all of your doctor's appointments (see below), and keep 
taking all of your medicines. If you have any fever, chills, 
chest pain, difficulty breathing, nausea, vomiting, or worsening 
pain or redness in your foot, you should call your doctor or 
return to the Emergency Department.

Best wishes,
Your ___ team
 
Followup Instructions:
___